**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 1
* SIMULATION TYPE: ac_point_dc_list
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/projekti_2.gazi.04ce3058-9860-48ad-82e6-516259819c3e/common/model_files/dut.cir

** Start testbenches

********************* dut testbench 23_1 *********************
v_gs_ac_23_1 g_23_1 g_ac_23_1 DC 0 AC 1
e_gs_23_1 g_ac_23_1 0 v_sweep 0 1
v_ds_23_1 d_23_1 0 0.0
v_s_23_1 s_23_1 0 0
v_bs_23_1 b_23_1 0 1.0
x_23_1 d_23_1 g_23_1 s_23_1 b_23_1 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 23_2 *********************
v_gs_ac_23_2 g_23_2 g_ac_23_2 DC 0 AC 1
e_gs_23_2 g_ac_23_2 0 v_sweep 0 1
v_ds_23_2 d_23_2 0 0.0
v_s_23_2 s_23_2 0 0
v_bs_23_2 b_23_2 0 -1.0
x_23_2 d_23_2 g_23_2 s_23_2 b_23_2 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut a0 = 1.0
alterparam dut a1 = 0.0
alterparam dut a2 = 1.0
alterparam dut acde = 1.0
alterparam dut ags = 0.0
alterparam dut cf = 0.0
alterparam dut cgdl = 1e-10
alterparam dut cgdo = 1e-10
alterparam dut ckappas = 0.6
alterparam dut clc = 1e-07
alterparam dut cle = 0.6
alterparam dut dlc = 0.0
alterparam dut drout = 0.56
alterparam dut dsub = 0.56
alterparam dut dvt0 = 2.2
alterparam dut dvt0w = 0.0
alterparam dut dvt1 = 0.53
alterparam dut dvt1w = 5300000.0
alterparam dut dvt2 = 1*-0.032
alterparam dut dvt2w = 1*-0.032
alterparam dut dwg = 0.0
alterparam dut eta0 = 0.08
alterparam dut etab = 1*-0.07
alterparam dut k1 = 0.53
alterparam dut k2 = 1*-0.0186
alterparam dut k3 = 80.0
alterparam dut k3b = 0.0
alterparam dut keta = 1*-0.0047
alterparam dut lint = 0.0
alterparam dut ll = 0.0
alterparam dut moin = 15.0
alterparam dut ndep = 1e+17
alterparam dut nfactor = 1.0
alterparam dut ngate = 1e+20
alterparam dut noff = 1.0
alterparam dut pclm = 1.3
alterparam dut pdiblc1 = 0.39
alterparam dut pdiblc2 = 0.086
alterparam dut pdiblcb = 0.0
alterparam dut pvag = 0.0
alterparam dut rdsw = 200.0
alterparam dut toxp = 5e-09
alterparam dut u0 = 670.0
alterparam dut ua = 1e-09
alterparam dut ub = 1e-19
alterparam dut uc = 1*-4.65e-11
alterparam dut voff = 1*-0.08
alterparam dut voffcv = 0.0
alterparam dut vsat = 80000.0
alterparam dut vth0 = 0.5
alterparam dut w0 = 2.5e-06
alterparam dut wint = 0.0
alterparam dut ww = 0.0
alterparam dut wwl = 0.0
alterparam dut lwl = 0.0
alterparam dut voffl = 0.0
alterparam dut xpart = 0.0
alterparam dut bin_pvsat = 0.0
alterparam dut bin_prdsw = 0.0
alterparam dut bin_ppclm = 0.0
alterparam dut bin_wketa = 0.0
alterparam dut bin_lketa = 0.0
alterparam dut bin_pketa = 0.0
alterparam dut bin_wk3 = 0.0
alterparam dut bin_wk3b = 0.0
reset
** Model parameters end

** Declare the vectors to save.
save i(v_bs_23_2) i(v_ds_23_1) i(v_s_23_2) i(v_s_23_1) i(v_ds_23_2) i(v_bs_23_1)

** Write the header of the results file.
echo "vgs,cgg_23_1,cgg_23_2" > /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/projekti_2.gazi.04ce3058-9860-48ad-82e6-516259819c3e/models/modeli_1.110cbd8c-1264-4292-9ee7-ab7282681f22/single_simulation_22_07_2024-21_01_49/simulation_files/ac_point_dc_list_1.csv

** Start the simulation loop.
set values_list = ( -2.0 -1.9 -1.85 -1.8 -1.75 -1.7 -1.65 -1.6 -1.55 -1.5 -1.45 -1.4 -1.35 -1.3 -1.25 -1.2 -1.15 -1.1 -1.05 -1.0 -0.95 -0.9 -0.85 -0.8 -0.75 -0.7 -0.65 -0.6 -0.55 -0.5 -0.45 -0.4 -0.35 -0.3 -0.25 -0.2 -0.15 -0.1 -0.05 1.20737e-15 0.05 0.1 0.15 0.2 0.25 0.3 0.35 0.4 0.45 0.5 0.55 0.6 0.65 0.7 0.75 0.8 0.85 0.9 0.95 1.0 1.05 1.1 1.15 1.2 1.25 1.3 1.35 1.4 1.45 1.5 1.55 1.6 1.65 1.7 1.75 1.8 1.85 1.9 1.95 2.0 )
foreach val $values_list
    alter v_sweep $val
    ac lin 1 10000.0 10000.0

    let cgg_23_1 = (abs(imag(i(v_s_23_1))) + abs(imag(i(v_ds_23_1))) + abs(imag(i(v_bs_23_1))))/2*pi*10000.0
    let cgg_23_2 = (abs(imag(i(v_s_23_2))) + abs(imag(i(v_ds_23_2))) + abs(imag(i(v_bs_23_2))))/2*pi*10000.0

    echo "$val,$&cgg_23_1,$&cgg_23_2" >> /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/projekti_2.gazi.04ce3058-9860-48ad-82e6-516259819c3e/models/modeli_1.110cbd8c-1264-4292-9ee7-ab7282681f22/single_simulation_22_07_2024-21_01_49/simulation_files/ac_point_dc_list_1.csv
end

.endc
********** End of control section **********

.end